US08106190B2
In DMF and in the presence of sodium hydride, methyl 2-({(1S,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-4-(trifluoromethyl)benzoate was allowed to react with methyl iodide at 70° C. for 1 hour. By post-treating the reaction liquid, methyl 2-({(1S,2S)-2-[(tert-butoxycarbonyl)(methyl)amino]cyclohexyl}amino)-4-(trifluoromethyl)benzoate was obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-({(1S,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-4-(trifluoromethyl)benzoate | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CCCC1)NC1=C(C(=O)OC)C=CC(=C1)C(F)(F)F | C20H27F3N2O4
reactant | methyl iodide | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-({(1S,2S)-2-[(tert-butoxycarbonyl)(methyl)amino]cyclohexyl}amino)-4-(trifluoromethyl)benzoate | C(C)(C)(C)OC(=O)N([C@@H]1[C@H](CCCC1)NC1=C(C(=O)OC)C=CC(=C1)C(F)(F)F)C | C21H29F3N2O4
